US04753674
In 50 ml of toluene were dissolved 1.6 g (0.015 mole) of benzylamine and 2.4 g (0.030 mole) of pyridine. Then, was added dropwise thereto a solution of 3.0 g (0.010 mole) of 2-(4-chloro-3-trifluoromethylphenoxy)-butyroyl chloride in 30 ml of toluene and the mixture was treated, according to the same procedure as in Synthesis Example 10. The resultant crude crystals were recrystallized from ethanol to give 1.6 g of N-benzyl-2-(4-chloro-3-trifluoromethylphenoxy)-butyramide melting at 93°-95° C. as colorless needless.

reactant | benzylamine | 0.015 mole, 1.6 g | C(C1=CC=CC=C1)N | C7H9N
reactant | pyridine | 0.030 mole, 2.4 g | N1=CC=CC=C1 | C5H5N
reactant | 2-(4-chloro-3-trifluoromethylphenoxy)-butyroyl chloride | 0.010 mole, 3.0 g | ClC1=C(C=C(OC(C(=O)Cl)CC)C=C1)C(F)(F)F | C11H9Cl2F3O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-2-(4-chloro-3-trifluoromethylphenoxy)-butyramide | 1.6 g | C(C1=CC=CC=C1)NC(C(CC)OC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C18H17ClF3NO2
